US07112594B2
[2-(N-(3-cyano-4-neopentyloxyphenyl)carbamoyl)indol-1-yl]ethyl acetate
1-(Ethoxycarbonylmethyl)indole-2-carboxylic acid (2 g) obtained by reacting 1H-indol-2-carboxylic acid with potassium carbonate and bromoethyl acetate in dimethylformamide, 5-amino-2-neopentyloxybenzonitrile (1.6 g), triethylamine (2.4 g) and diethyl cyanophosphate (2 g) were added to dimethylformamide solution (20 ml) and the mixture was stirred at room temperature for 1 hr. Then the reaction mixture was treated with diluted hydrochloric acid and the organic layer was extracted with ethyl acetate. The extract solution was washed with aqueous sodium hydrogencarbonate solution and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated. Methanol was added to the residue to allow crystallization and the crystals were recrystallized from water-containing methanol to give the title compound (2.3 g). melting point: 169-170° C.

reactant | 1H-indol-2-carboxylic acid | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | bromoethyl acetate | C(C)(=O)OCCBr | C4H7BrO2
reactant | 5-amino-2-neopentyloxybenzonitrile | 1.6 g | NC=1C=CC(=C(C#N)C1)OCC(C)(C)C | C12H16N2O
reactant | diethyl cyanophosphate | 2 g | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 2.4 g | C(C)N(CC)CC | C6H15N
product | [2-(N-(3-cyano-4-neopentyloxyphenyl)carbamoyl)indol-1-yl]ethyl acetate | 2.3 g | C(C)(=O)OCCN1C(=CC2=CC=CC=C12)C(NC1=CC(=C(C=C1)OCC(C)(C)C)C#N)=O | C25H27N3O4
